US04895860
Step (2) Preparation of 1-Chloro-2-hydroxymethyl-3,4-dihydronaphthalene
To a mixture of sodium borohydride (2.83 g, 0.075 mol) in methanol (150 mL) at 0° C., was added dropwise a solution of 1-chloro-2-formyl-3,4-dihydronaphthalene (9.59 g, 0.05 mol) in dry THF (150 mL). The reaction was stirred at room temperature for 1 hour, carbon dioxide was cautiously bubbled through the reaction mixture for 15 minutes, and the resulting mixture was concentrated under reduced pressure. The residue was diluted with water (150 mL), extracted with ether (3×150 mL), dried (MgSO4) and concentrated to give 9.95 g (102%) of product as a yellow oil.

reactant | sodium borohydride | 0.075 mol, 2.83 g | [BH4-].[Na+]
reactant | 1-chloro-2-formyl-3,4-dihydronaphthalene | 0.05 mol, 9.59 g | ClC1=C(CCC2=CC=CC=C12)C=O | C11H9ClO
solvent | methanol | 150 mL | CO | CH4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Chloro-2-hydroxymethyl-3,4-dihydronaphthalene | 9.95 g, 102% | ClC1=C(CCC2=CC=CC=C12)CO | C11H11ClO
